US09284333B2
To a solution of 8-((R)-1-phenyl-propylcarbamoyI)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carboxylic acid (Comp. No. 11a) (200 mg, 0.61 mmol) in dimethylformamide (2 ml) was added 1-hydroxybenzotriazole (91 mg, 0.670 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (128 mg, 0.670 mmol). The mixture was stirred for 45 min at 25° C., then (R)-pyrrolidine-2-carboxylic acid methyl ester hydrochloride (111 mg, 0.670 mmol) and triethylamine (123 mg, 1.218 mmol) were added and the mixture was stirred at 25° C. overnight. Excess dichloromethane was added and the mixture was washed consecutively with water, aqueous sodium hydrogencarbonate and brine. The organic layer was evaporated to dryness. The crude product was purified by flash chromatography (silica gel, elution with heptane/ethyl acetate) to give 55 mg (21%) of (R)-1-[8-((R)-1-phenyl-propylcarbamoyI)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-pyrrolidine-2-carboxylic acid methyl ester). LC/MS (method 4): Rt=1.21 min; m/z=440.29 (M+H+).

reactant | 8-((R)-1-phenyl-propylcarbamoyI)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carboxylic acid | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)O | C18H20N2O4
reactant | 1-hydroxybenzotriazole | 0.670 mmol, 91 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.670 mmol, 128 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (R)-pyrrolidine-2-carboxylic acid methyl ester hydrochloride | 0.670 mmol, 111 mg | Cl.COC(=O)[C@@H]1NCCC1
reactant | triethylamine | 1.218 mmol, 123 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-1-[8-((R)-1-phenyl-propylcarbamoyI)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-pyrrolidine-2-carboxylic acid methyl ester | 55 mg, 21% | COC(=O)[C@@H]1N(CCC1)C(=O)C1=CC(=C2COCCN21)C(N[C@H](CC)C2=CC=CC=C2)=O | C24H29N3O5
